US06573289B1
Production of 6-[1-Hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl]naphthalen-2-yloxymethyl 2,2-dimethylpropionate
Sodium hydride (60% oil dispersion, 0.120 g) was added to DMF (15 ml), and to the mixture was slowly added 1-(6-hydroxynaphthalen-2-yl)-1-(1-trityl-1H-imidazol-4-yl)-2-methyl-1-propanol (1.397 g) under ice cooling, and the mixture was stirred for 30 min under ice cooling. To the mixture was added iodomethyl pivalate (0.83 g), and the mixture was stirred at room temperature for 6 h. To the mixture were added water and ethyl acetate, and the organic layer was washed with water and saturated solution of sodium chloride. The extract was dried and concentrated. The obtained residue was purified by silica gel column chromatography (eluent, hexane:ethyl acetate=5:1→3:1). Recrystallization from hexane-ethyl acetate to give the titled compound (0.433 g) as a colorless solid.

reactant | Sodium hydride | 0.120 g | [H-].[Na+]
reactant | DMF | 15 ml | CN(C)C=O | C3H7NO
reactant | 1-(6-hydroxynaphthalen-2-yl)-1-(1-trityl-1H-imidazol-4-yl)-2-methyl-1-propanol | 1.397 g | OC=1C=C2C=CC(=CC2=CC1)C(C(C)C)(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C36H32N2O2
reactant | iodomethyl pivalate | 0.83 g | C(C(C)(C)C)(=O)OCI | C6H11IO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 6-[1-Hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl]naphthalen-2-yloxymethyl 2,2-dimethylpropionate | 0.433 g | CC(C(=O)OCOC1=CC2=CC=C(C=C2C=C1)C(C(C)C)(C=1N=CNC1)O)(C)C | C23H28N2O4
